US05242948
3,3-Dimethylcyclohexylthiourea
59 g (0.42 mol) of benzoyl chloride were added dropwise over the course of 10 minutes to a solution of 33 g (0.44 mol) of ammonium thiocyanate in 100 ml of absolute acetone. The mixture was refluxed for 10 minutes and then 50.8 g (0.40 mol) of 3,3-dimethylcyclohexylamine were added dropwise, and the mixture was refluxed for a further 20 minutes and then stirred into 500 ml of ice-water. The precipitated solid was filtered off with suction, washed with water, dissolved in a hot mixture of 500 ml of 10% strength sodium hydroxide solution and 125 ml of ethanol and refluxed for 30 minutes. The reaction mixture was then diluted with ice-water, and the pH was initially adjusted to 1 with concentrated hydrochloric acid and then to 9 with solid sodium bicarbonate. The resulting precipitate was filtered off with suction, washed with water and dried at 80° C. under reduced pressure.

reactant | benzoyl chloride | 0.42 mol, 59 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium thiocyanate | 0.44 mol, 33 g | [S-]C#N.[NH4+]
reactant | 3,3-dimethylcyclohexylamine | 0.40 mol, 50.8 g | CC1(CC(CCC1)N)C | C8H17N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3,3-Dimethylcyclohexylthiourea | CC1(CC(CCC1)NC(=S)N)C | C9H18N2S
